US08703965B2
Acetic acid (0.086 mL, 1.5 mmol) was added to a round bottom flask charged with 2,6-difluoroaniline (3 mL, 30 mmol) and triethyl orthoformate (5 mL, 30 mmol). A vigreux column was attached and the solution was heated with stirring to 120° C. for 2 hours. 2,4,6-trimethylaniline (4.22 mL, 30 mmol) was then added to the reaction mixture. The solution was heated to reflux for an additional 2 hours and cooled to room temperature, whereupon crude product precipitated. Trituration with cold hexanes and vacuum filtration provided pure N-(2,6-difluorophenyl)-N′(mesityl)-formamidine (5.35 g, 65%) as a colorless powder.

reactant | 2,6-difluoroaniline | 30 mmol, 3 mL | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | triethyl orthoformate | 30 mmol, 5 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 2,4,6-trimethylaniline | 30 mmol, 4.22 mL | CC1=C(N)C(=CC(=C1)C)C | C9H13N
catalyst | Acetic acid | 1.5 mmol, 0.086 mL | C(C)(=O)O | C2H4O2
product | N-(2,6-difluorophenyl)-N′(mesityl)-formamidine | 5.35 g, 65% | FC1=C(C(=CC=C1)F)NC=NC1=C(C=C(C=C1C)C)C | C16H16F2N2
